US07737166B2
4-Amino-3-cyano-6-fluoro-5-methoxy-2-methylbiphenyl (I-39)
Aqueous 20% (w/v) potassium carbonate solution (9.0 ml, 13.0 mmol) was added to a methanol (9 ml) suspension of N-(5-cyano-2-fluoro-3-methoxy-6-methylbiphenyl-4-yl)-2,2,2-trifluoroacetamide (I-37) (400 mg, 1.14 mmol), followed by stirring at 70° C. for 16 hours. The reaction liquid became uniform with temperature elevation. The reaction liquid was cooled to room temperature, methanol was evaporated away under reduced pressure, water was added to the residue, followed by extraction twice with ethyl acetate, the organic layer was washed with saturated brine, then dried over anhydrous magnesium sulfate. After nitration and concentration under reduced pressure, the entitled compound (266 mg, 91%) was obtained as a white solid.

reactant | potassium carbonate | 13.0 mmol, 9.0 ml | C([O-])([O-])=O.[K+].[K+]
reactant | N-(5-cyano-2-fluoro-3-methoxy-6-methylbiphenyl-4-yl)-2,2,2-trifluoroacetamide | 1.14 mmol, 400 mg | C(#N)C=1C(=C(C(=C(C1C)C1=CC=CC=C1)F)OC)NC(C(F)(F)F)=O | C17H12F4N2O2
solvent | methanol | 9 ml | CO | CH4O
product | 4-Amino-3-cyano-6-fluoro-5-methoxy-2-methylbiphenyl | 266 mg, 91% | NC1=C(C(=C(C(=C1OC)F)C1=CC=CC=C1)C)C#N | C15H13FN2O
